US06211234B1
Concentrated sulphuric acid (2-3 drops) is added to a stirred solution of dibenzyloxybenzaldehyde (1.5 g) in methanol (50 mL), resulting in a thick precipitate. The mixture is stirred for 5 minutes then hydrogen peroxide (1 g; 27.5% in water) is added in one portion and stirring is continued for 2 hours. The resulting brown solution is treated with 10% aqueous sodium sulphite solution (10 mL) then evaporated to low bulk. The residue is treated with water (50 mL), the solid washed with water, dried and crystallised from cyclohexane, with charcoal treatment, to give 2,4-dibenzyloxyphenol (0.3 g) as a white powder, m.p. 82-83° C. [Elemental analysis:- C,78.2; H,5.79%. Calculated:- C,78.4; H,5.92%].

reactant | dibenzyloxybenzaldehyde | 1.5 g | C(C1=CC=CC=C1)OC=1C(=C(C=O)C=CC1)OCC1=CC=CC=C1 | C21H18O3
reactant | hydrogen peroxide | 1 g | OO | H2O2
reactant | sodium sulphite | 10 mL | S(=O)([O-])[O-].[Na+].[Na+]
catalyst | sulphuric acid | 2-3 drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 50 mL | CO | CH4O
product | 2,4-dibenzyloxyphenol | 0.3 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)O | C20H18O3
